US08048884B2
Preparation 7: Methyl-(2-oxo-ethyl)-carbamic acid t-butyl ester
Combine under a nitrogen atmosphere, dichloromethane (37.91 moles; 2.43 L), dimethyl sulfoxide (7.30 moles; 518.4 mL), triethylamine (1.85 moles; 257.7 mL), and (2-hydroxy-ethyl)-methyl-carbamic acid t-butyl ester (924.5 mmoles; 162.0 g). Add in steps sulfur trioxide:pyridine complex (1.849 moles; 300.3 g), maintaining the reaction temperature less than 20° C. Stir the reaction mixture at ambient temperature overnight. Add 1.0 L water, separate the organic layer, wash with 10% citric acid in water (800 mL), water and brine. Concentrate and pass through a silica plug, eluting with 20% ethyl acetate/hexanes. Add toluene (200 mL) and concentrate to provide the title intermediate (yield 62.45%, 100 g).

reactant | dichloromethane | 37.91 moles, 2.43 L | ClCCl | CH2Cl2
reactant | dimethyl sulfoxide | 7.30 moles, 518.4 mL | CS(=O)C | C2H6OS
reactant | triethylamine | 1.85 moles, 257.7 mL | C(C)N(CC)CC | C6H15N
reactant | (2-hydroxy-ethyl)-methyl-carbamic acid t-butyl ester | 924.5 mmoles, 162.0 g | C(C)(C)(C)OC(N(C)CCO)=O | C8H17NO3
reactant | sulfur trioxide | S(=O)(=O)=O | O3S
solvent | water | 1.0 L | O | H2O
product | Methyl-(2-oxo-ethyl)-carbamic acid t-butyl ester | 100 g, yield 62.45% | C(C)(C)(C)OC(N(CC=O)C)=O | C8H15NO3
